US07902252B2
2.68. Synthesis of methyl 4-(3-bromophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.502 g, 2.80 mmol) and (3-bromophenyl)magnesium bromide (synthesized in situ) were reacted according to General Procedure 3 to give the endo olefin-containing compound methyl 4-(3-bromophenyl)-1,6-dihydrocyclopenta[b]pyrrole-2-carboxylate. (Note: (3-Bromophenyl)magnesium bromide was synthesized as follows: Activated magnesium (0.306 g, 12.6 mmol) was placed in a flask and anhydrous THF (50 mL) was added. 1,3-dibromobenzene (1.6 mL, 13.2 mmol) and a catalytic amount of 12 was added. The solution was stirred gently at ambient temperature for 30 min. Additional anhydrous THF (25 mL) was added and the solution refluxed for 3 h, and then allowed to cool to ambient temperature). Methyl 4-(3-bromophenyl)-1,6-dihydrocyclopenta[b]pyrrole-2-carboxylate was hydrogenated according to General Procedure 6 (with Pt2O), and was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-30% EtOAc/heptane affording a 1:1 mixture of the title compound and dehalogenated product as a slightly yellow solid: 0.315 g (67% yield). LCMS (ESI−) 318.0 (M−H).

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.80 mmol, 0.502 g | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | (3-bromophenyl)magnesium bromide | BrC=1C=C(C=CC1)[Mg]Br
product | methyl 4-(3-bromophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | BrC=1C=C(C=CC1)C1CCC=2NC(=CC21)C(=O)OC | C15H14BrNO2
